US04985427
N-[4-(Trifluoromethyl)phenyl]glycine methyl ester
4-Trifluoromethylaniline (5.84 g), methyl chloroacetate (13.1 g) and sodium bicarbonate (3 g) were treated according to the method of Intermediate 5. The product was purified by FCC eluting with System B (1:3) to give the title compound (5.00 g), t.l.c. (System B, 1:3) Rf 0.32.

reactant | 4-Trifluoromethylaniline | 5.84 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | methyl chloroacetate | 13.1 g | ClCC(=O)OC | C3H5ClO2
reactant | sodium bicarbonate | 3 g | C([O-])(O)=O.[Na+]
product | N-[4-(Trifluoromethyl)phenyl]glycine methyl ester | 5.00 g | COC(CNC1=CC=C(C=C1)C(F)(F)F)=O | C10H10F3NO2
